US05830976
In 300 ml of ethyl acetate was dissolved 8.0 g (0.017 mol) of stearyl 3,5-dinitrobenzoate, and 1.0 g of 5% palladium-carbon was then added thereto and catalytic reduction was carried out at ordinary temperature under atmospheric pressure. After the completion of the reaction, the catalyst was removed by filtration and the solvent was distilled off under reduced pressure to obtain a crystal. The thus obtained crystal was recrystallized from n-heptane/ethyl acetate twice to obtain 4.48 g (0.011 mol) of stearyl 3,5-diaminobenzoate. The melting point of this compound was in the range of 81.8° to 82.6° C.

reactant | stearyl 3,5-dinitrobenzoate | 0.017 mol, 8.0 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCCCCCCCCCCCCC)C=C(C1)[N+](=O)[O-] | C25H40N2O6
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | stearyl 3,5-diaminobenzoate | 0.011 mol, 4.48 g | NC=1C=C(C(=O)OCCCCCCCCCCCCCCCCCC)C=C(C1)N | C25H44N2O2
